US05780607
To 15. 50 g (31.38 mmol) of 1-[2-deoxy-2-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-β-D-glucopyranosyl]cytosine was added 1.2 liters of 200 proof ethanol and this solution was heated to reflux. At reflux, 7.09 g (31.37 mmol) of benzoic anhydride was added. Every hour for 4 hours, an additional portion of 7.09 g of benzoic anhydride was added to the refluxing solution. After a total of 5 hours reaction time, TLC indicated the consumption of the starting material. At this time the reaction mixture was concentrated to near dryness in vacuo and 500 mL of Et2O was added; this suspension was filtered and rinsed with Et2O. The resulting solid was recrystallized from CHCl3, giving 7.48 g (40%) of N-[1-[2-deoxy-2-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-β-D-glucopyranosyl]-1,2-dihydro-2-oxo-4-pyrimidinyl]benzamide. 1H NMR: (DMSO-d6): δ anomeric H-1 5.75 (m, 1H). CSI-MS: m/z 599 for (M+1)+ and 621 for (M+Na)+.

reactant | 1-[2-deoxy-2-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-β-D-glucopyranosyl]cytosine | 31.38 mmol, 50 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1O)O)CO)N1C(=O)N=C(N)C=C1 | C25H26N4O7
reactant | benzoic anhydride | 31.37 mmol, 7.09 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | benzoic anhydride | 7.09 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | ethanol | C(C)O | C2H6O
product | N-[1-[2-deoxy-2-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-β-D-glucopyranosyl]-1,2-dihydro-2-oxo-4-pyrimidinyl]benzamide | 7.48 g, 40% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1O)O)CO)N1C(N=C(C=C1)NC(C1=CC=CC=C1)=O)=O | C32H30N4O8
